### PR TITLE
chore: use `grw`

### PR DESCRIPTION
**Pull request by astrainfinita**

### CODE REVIEW

File: CombinatorialGames/Surreal/Real.lean [hunk 1]
```diff
@@ -224,22 +230,23 @@ theorem toIGame_add_equiv (x y : ℝ) : toIGame (x + y) ≈ x + y := by
...
     rw [lt_sub_comm] at hr'
     obtain ⟨s, hs, hs'⟩ := exists_rat_btwn hr'
     trans r + s
     · apply add_lt_add <;> simpa
-    · rw [add_comm, q.toIGame_equiv.lt_congr_right, ← IGame.lt_sub_iff_add_lt,
-        ← (ratCast_sub_equiv ..).lt_congr_right]
+    · grw [q.toIGame_equiv]
+      rw [add_comm, ← IGame.lt_sub_iff_add_lt]
+      grw [← ratCast_sub_equiv]
       simp_all [← Rat.cast_sub]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Real.lean]: A somewhat aggressive golf, but makes the symmetry of the argument more apparent:
```suggestion
  on_goal 5 =>
  · rw [← lt_sub_iff_add_lt] at hq
    obtain ⟨r, hr, hr'⟩ := exists_rat_btwn hq
    rw [lt_sub_comm] at hr'
    obtain ⟨s, hs, hs'⟩ := exists_rat_btwn hr'
    trans r + s
    · apply add_lt_add <;> simpa
    · grw [q.toIGame_equiv]
      rw [add_comm, ← IGame.lt_sub_iff_add_lt]
      grw [← ratCast_sub_equiv]
      simp_all [← Rat.cast_sub]
  all_goals
    first | grw [← toIGame_dyadic_add_equiv] | grw [← toIGame_add_dyadic_equiv]
    simpa
```

**Review by vihdzp — APPROVED** [review]
